US07163937B2
Examples 2r and 2s, Step 1: A solution of (1R,3R,4S)-{4-[(3S)-3-amino-2-oxo-pyrrolidin-1-yl]-3-propyl-cyclohexyl}-carbamic acid tert-butyl ester (0.66 mmol) in EtOH (8 mL) was charged with triethylamine (0.5 mL, 3.3 mmol) and 4,6-dichloroquinazoline (200 mg, 1.0 mmol) before being heated at 80° C. for 12 h. The reaction mixture was cooled and purified by flash chromatography to afford tert-butyl (1R,3R,4S)-4-((S)-3-(6-chloroquinazolin-4-ylamino)-2-oxopyrrolidin-1-yl)-3-propylcyclohexylcarbamate. MS found: (M+H)+=502.2.

reactant | (1R,3R,4S)-{4-[(3S)-3-amino-2-oxo-pyrrolidin-1-yl]-3-propyl-cyclohexyl}-carbamic acid tert-butyl ester | 0.66 mmol | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)N)=O)CCC)=O | C18H33N3O3
reactant | triethylamine | 3.3 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloroquinazoline | 1.0 mmol, 200 mg | ClC1=NC=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
solvent | EtOH | 8 mL | CCO | C2H6O
product | tert-butyl (1R,3R,4S)-4-((S)-3-(6-chloroquinazolin-4-ylamino)-2-oxopyrrolidin-1-yl)-3-propylcyclohexylcarbamate | ClC=1C=C2C(=NC=NC2=CC1)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CCC)=O | C26H36ClN5O3
